spice
*SPICE netlist for given schematic
* PMOS Transistor M1
? Missing component
* NMOS Transistor M2
M2 4 3 0 0 NMOS
* PMOS Transistor M3
M3 2 Vb 2 2 PMOS
* Supply Voltage
VDD 2 0 DC 5
* Input Voltage
Vin 3 0 DC 0
* Bias Voltage
Vb 0 0 DC 0
* .model declarations should be added as needed for PMOS and NMOS
*.model PMOS PMOS(...)
*.model NMOS NMOS(...)
.end
