spice
* SPICE Netlist
* Voltage Source
VDD VDD 0 DC 1.8
* Transistors
M1 Vout Vin 0 0 NMOS_MODEL
? Missing component
* Models
.model NMOS_MODEL NMOS
.model PMOS_MODEL PMOS
* End of Netlist
