* NMOS Amplifier Circuit
VDD 4 0 DC 1.8V
Vin 6 0 DC 0V AC 1
* MOSFET
? Missing component
* Resistors
RD 4 4 1k
R2 4 3 1k
R1 5 0 1k
RS 1 0 1k
.model NMOS NMOS (LEVEL=1)
.end
