spice
* PMOS with W/L = 20/0.18
M1 Vout Vin Vdd Vdd PMOS L=0.18u W=20u
* NMOS with W/L = 10/0.18
? Missing component
* Voltage sources
Vdd Vdd 0 DC 1.8V
Vin Vin 0 DC Vin_value
V_M2 3 0 DC 0.8V
.include 'models.lib'
