spice
* NMOS Transistor M1
M1 3 Vin 0 0 NMOS W=10u L=0.18u
* PMOS Transistor M2
? Missing component
* Voltage Source
VDD VDD 0 DC 1.8V
* Input Voltage
Vin Vin 0 DC <Vin_value>
* End of netlist
