* SPICE Netlist for the given schematic
V1 2 4 DC V_G    * Voltage Source V_G from Node 2 to Ground
I1 3 4 DC I_S/2  * Current Source I_S/2 from Node 3 to Ground
* PMOS Transistor
? Missing component
*.MODEL PMOS PMOS (Level=1 ...)   * Define PMOS model with appropriate parameters
.END
