spice
* NMOS: (Drain, Gate, Source)
MN1 3 4 0 NMOS_MODEL
MN2 5 3 0 NMOS_MODEL
? Missing component
MN4 6 5 0 NMOS_MODEL
MN5 3 2 0 NMOS_MODEL
MN6 7 5 0 NMOS_MODEL
MN7 0 0 0 NMOS_MODEL
MN8 8 2 0 NMOS_MODEL
* PMOS: (Drain, Gate, Source)
MP1 2 3 6 PMOS_MODEL
MP2 2 3 4 PMOS_MODEL
MP3 6 2 7 PMOS_MODEL
MP4 4 6 0 PMOS_MODEL
MP5 7 2 6 PMOS_MODEL
MP6 0 2 0 PMOS_MODEL
MP7 8 7 0 PMOS_MODEL
* Resistor
RBIAS 4 0 10k
* Current Source
IBIAS_EXT 3 0 AC 1
* Voltage Source
V1 2 0 DC 1
.model NMOS_MODEL NMOS (LEVEL=1)
.model PMOS_MODEL PMOS (LEVEL=1)
.end
