* NMOS Transistors
MN1 2 7 8 8 NMOS_MODEL
? Missing component
M3 23 22 8 8 NMOS_MODEL
M4 21 20 8 8 NMOS_MODEL
* PMOS Transistors
MP1 2 2 7 7 PMOS_MODEL
MP2 2 2 9 9 PMOS_MODEL
MB1 2 10 7 7 PMOS_MODEL
MB2 2 11 8 8 PMOS_MODEL
M5 20 19 2 2 PMOS_MODEL
M6 2 19 6 6 PMOS_MODEL
M7 22 17 2 2 PMOS_MODEL
M8 2 18 6 6 PMOS_MODEL
M9 10 18 2 2 PMOS_MODEL
M10 10 17 2 2 PMOS_MODEL
* Voltage Sources
VDD 9 2 DC VDD
VSS 8 2 DC VSS
* Bias Voltages
VBias1 6 2 DC VBias1
VBias2 17 2 DC VBias2
VBias3 18 2 DC VBias3
VBias4 10 2 DC VBias4
VBias5 11 2 DC VBias5
VCMFB 19 2 DC VCMFB
* Input Voltages
VIN+ 7 2 AC 1
VIN− 9 2 AC 1
