*Voltage Supply
VDD 3 0 DC VDD
VSS 4 0 DC VSS
*PMOS Transistors
M_MB21 3 5 5 5 PMOS
M_MB22 3 2 5 5 PMOS
M_MB23 3 2 4 4 PMOS
M_MB24 3 2 4 4 PMOS
*MOSFET NMOS
M_MR1 2 3 4 4 NMOS
M_MR2 2 2 3 3 NMOS
M_MR3 4 2 3 3 NMOS
M_MR4 4 3 4 4 NMOS
M_MC1 2 2 4 4 NMOS
? Missing component
M_MC3 4 2 4 4 NMOS
M_MC4 4 2 4 4 NMOS
M_MC5 4 4 10 10 NMOS
M_MC6 4 4 4 4 NMOS
*Voltage Nodes
VBias 5 0 DC VBIAS4
VOut 3 0 VOUT-
VOut+ 3 2 VOUT+
VRef 2 0 VREF_CM
VCMFB 4 0 VCMFB
