spice
* Transistors
M1 5 6 44 44 PMOS W=20u L=1u
M2 5 5 44 44 PMOS W=20u L=1u
M3 8 9 44 44 PMOS W=20u L=1u
M4 8 5 44 44 PMOS W=20u L=1u
M5 9 5 44 44 PMOS W=20u L=1u
M6 10 5 44 44 PMOS W=40u L=1u
M7 11 5 44 44 PMOS W=40u L=1u
M8 8 8 44 44 PMOS W=40u L=1u
M9 5 5 2 2 NMOS W=0.75u L=0.5u
? Missing component
M11 5 5 2 2 NMOS W=5u L=0.5u
M12 5 22 2 2 NMOS W=5u L=0.5u
M13 5 4 2 2 NMOS W=5u L=0.5u
M14 2 6 44 44 NMOS W=6u L=0.5u
M15 2 2 44 44 NMOS W=6u L=0.5u
* Voltage Sources
VDD 44 0 DC
VSS 2 0 DC
VCMFB 2 0 DC
* End of Netlist
