spice
* NMOS Transistors
M1 2 7 2 2 NMOS W=15 L=0.5
M2 2 2 22 22 NMOS W=15 L=0.5
M3 2 2 22 22 NMOS W=5 L=0.5
M4 2 2 22 22 NMOS W=5 L=0.5
M5 2 22 22 22 NMOS W=3 L=0.5
M6 2 22 22 22 NMOS W=3 L=0.5
* PMOS Transistors
M7 3 5 8 8 PMOS W=20 L=1
M8 3 8 8 8 PMOS W=20 L=1
M9 3 10 10 10 PMOS W=20 L=1
? Missing component
M11 2 9 9 9 PMOS W=20 L=1
M12 2 8 8 8 PMOS W=20 L=1
M13 3 7 7 7 PMOS W=40 L=1
M14 3 6 6 6 PMOS W=40 L=1
* Current Source
I1 7 0 DC 5uA
* Voltage Sources
V1 9 0 DC V_DD
V2 22 0 DC V_SS
V3 2 0 DC V_CMFB
