* PMOS Transistors
M1 1 4 3 3 PMOS L=1u W=20u
M2 2 4 1 1 PMOS L=1u W=20u
M3 3 9 3 3 PMOS L=1u W=80u
M4 9 4 1 1 PMOS L=1u W=40u
M5 4 9 3 3 PMOS L=1u W=80u
M6 5 2 1 1 PMOS L=1u W=20u
* NMOS Transistors
M7 6 9 3 3 NMOS L=1u W=128u
M8 7 3 9 3 NMOS L=1u W=128u
M9 8 1 3 3 NMOS L=1u W=1u
? Missing component
M11 10 2 6 3 NMOS L=1u W=32u
M12 11 7 3 3 NMOS L=1u W=32u
M13 12 8 7 3 NMOS L=1u W=64u
M14 13 6 3 3 NMOS L=1u W=16u
* Current Sources
I1 3 9 DC 10uA
I2 9 2 DC 5uA
I3 4 3 DC 10uA
I4 1 2 DC 10uA
* Resistor
R1 9 3 20k
* Voltage Sources
VDD 4 0 DC VDD
VSS 9 0 DC VSS
