plaintext
* SPICE netlist for the given schematic
* Power Supplies
VDD 2 0 DC VDD
VSS 3 0 DC VSS
* Current Source
IBIAS 4 0 DC P4
* Transistor Definitions
* PMOS: M<name> <drain> <gate> <source> <body> <model> <L> <W>
* NMOS: M<name> <drain> <gate> <source> <body> <model> <L> <W>
* PMOS Transistors
M_MB61 2 6 2 2 PMOS L=1u W=1u
M_MB62 2 5 2 2 PMOS L=1u W=1u
M_MB63 2 2 2 2 PMOS L=1u W=1u
M_MB64 2 2 2 2 PMOS L=1u W=1u
M_MB65 2 2 2 2 PMOS L=1u W=1u
M_MB66 2 2 2 2 PMOS L=1u W=1u
M_MB72 5 5 2 2 PMOS L=1u W=1u
* NMOS Transistors
M_MD1 3 3 2 3 NMOS L=1u W=1u
M_MD2 4 4 2 3 NMOS L=1u W=1u
M_MD3 2 2 3 3 NMOS L=1u W=1u
? Missing component
M_MB71 4 2 3 3 NMOS L=1u W=1u
M_MB62' 6 6 3 3 NMOS L=1u W=1u
* End of netlist
