spice
* NMOS and PMOS device dimensions: Length/Width in micrometers
* Current Sources
I1 6 0 DC 2.5uA
* NMOS Transistors
M1 2 5 3 3 NMOS L=0.5u W=20u
M2 3 6 3 3 NMOS L=0.5u W=10u
* PMOS Transistors
M3 8 2 2 4 PMOS L=0.25u W=125u
M4 4 22 2 4 PMOS L=0.25u W=125u
? Missing component
M6 3 22 3 3 NMOS L=0.5u W=10u
* Voltage Sources
VDD 8 0 DC 1.8V
VSS 0 3 DC 0V
* Node Assignments
* 2 - V_OUT21
* 22 - V_OUT22
* 3 - V_SS
* 4 - V_IN22
* 5 - V_IN21
* 6 - Gate of bias transistor
* 8 - V_DD
