* SPICE netlist for the given schematic
* Resistors
R1 2 9 RG/2
R2 3 9 RG/2
* NMOS Transistors
? Missing component
M2 4 5 6 6 NMOS
* Connections
* Node 9 is a common node connecting the top of both resistors
* Node 5 and 6 are the sources of M1 and M2 respectively
* Node 7 connects to the gate of M1
* Node 4 connects to the gate of M2
* Simulation Control
.control
.endc
.end
