spice
* NMOS Transistor
? Missing component
* Capacitor
C1 2 3 1uF
* Voltage Source
V1 5 0 DC 2V
* Ground connection for Voltage Source
V2 5 4 DC 0V
* .MODEL declaration for NMOS
.model NMOS NMOS level=1
