* MOSFET Definitions
? Missing component
M2 2 3 4 4 PMOS
* Voltage Sources
VDD 4 0 DC VDD_value
Vb 3 0 DC Vb_value
Vin 6 0 DC Vin_value
* .model statements for NMOS and PMOS
.model NMOS NMOS
.model PMOS PMOS
* End of netlist
.end
