plaintext
* NMOS Transistor
? Missing component
* Resistor
R1 2 3 Ron2
* Voltage Source
V1 2 0 VDD
* Nodes
* 0: Ground
* 2: VDD (Top of Ron2)
* 3: Vout (Connected to Drain of M1)
.MODEL NMOS NMOS
.END
