* Netlist for the given schematic
VDD 3 0 DC 5V
* NMOS M1
M1 2 Vin 3 3 NMOS
* NMOS M2
? Missing component
* Model Parameters (assumed for demonstration)
.model NMOS NMOS (Level=1 Vto=1.0 KP=50u)
.END
