* NMOS Transistors
M101 9 3 0 0 NMOS
M102 3 3 0 0 NMOS
M103 0 6 0 0 NMOS
M104 6 6 0 0 NMOS
M109 2 6 0 0 NMOS
M110 6 6 0 0 NMOS
M113 2 4 0 0 NMOS
M114 4 4 0 0 NMOS
* PMOS Transistors
M105 5 8 2 2 PMOS
M106 2 5 2 2 PMOS
M107 2 5 2 2 PMOS
M111 2 2 2 2 PMOS
? Missing component
* Current Source
IBIAS 8 2 DC 1mA
* Voltage Sources
VDD 2 0 DC 5V
VSS 0 9 DC -5V
VBIAS1 5 0 DC 1V
VBIAS2 6 0 DC 1V
VBIAS3 4 0 DC 1V
VBIAS4 3 0 DC 1V
*.end
