plaintext
* SPICE Netlist
V1 V_DD 0 DC 5V  * Assumed 5V for V_DD as an example
* Transistors
? Missing component
M2 3 Vb 4 4 NMOS_MODEL
M3 4 Vb3 6 6 NMOS_MODEL
* Resistor
Rout 3 6 1k  * Assumed 1k resistance, replace as needed
* Models (assuming simple level-1 models, replace with accurate models)
.MODEL PMOS_MODEL PMOS
.MODEL NMOS_MODEL NMOS
* End of netlist
