* Transistors
M1 Y Vb1 X X NMOS
? Missing component
* Capacitors
C1 Y X 1uF
* Voltage Source
VDD Y 0 DC 5V
* Node Assignments
* Node 0 is Ground
* Node X is labeled as '2'
* Node Y is labeled as '3'
