spice
* Transistor M1
? Missing component
* Transistor M2
M2 7 4 0 0 NMOS
* Resistors
R1 3 4 RD
R2 5 7 RD
r01 4 6 ro1
r02 7 8 ro2
* Voltage Sources
VDD 5 0 DC VDD
Vin1 4 0 DC Vin1
Vin2 8 0 DC -Vin1
* Nodes
.node 0 GND
.node 3 Vout1
.node 5 Vout2
.model NMOS NMOS
