* Differential Amplifier Circuit
M1 4 2 6 6 NMOS
? Missing component
M3 4 2 5 5 PMOS
M4 3 4 5 5 PMOS
I1 6 0 DC I_SS
VDD 5 0 DC V_DD
VIN 2 0 DC V_in
VB 2 0 DC V_b
