* Voltage Source
VDD 7 0 DC 1.8
* Current Source
ISS 4 0 DC 0.1m
* Resistors
RD1 7 6 10k
RD2 7 6 10k
* NMOS Transistors (M5, M6)
M5 6 1 4 4 NMOS L=1u W=10u
M6 6 2 4 4 NMOS L=1u W=10u
* PMOS Transistors (M4, M2)
M4 6 2 3 3 PMOS L=1u W=10u
? Missing component
* Connections
* Vout node 6
* Vcont node 3
* Vin node 1
