* SPICE netlist
M1 net4 Vin1 net6 net6 NMOS
M2 net4 Vin2 net2 net2 NMOS
M3 net4 Vb1 net4 net4 PMOS
M4 net2 Vb1 net2 net2 PMOS
? Missing component
M6 net2 Vb3 net2 net2 NMOS
M7 net3 Vb2 net4 net4 PMOS
RD1 VDD Vout 5k
RD2 VDD Vout 5k
VDD VDD 0 DC 5V
Vb1 Vb1 0 DC 1V
Vb2 Vb2 0 DC 1V
Vb3 Vb3 0 DC 1V
Vin1 Vin1 0 DC 1V
Vin2 Vin2 0 DC 1V
* End of netlist
