spice
* Differential Pair Circuit with Load
* Voltage Sources
VDD 1 0 DC VDD
VIN1 3 0 DC VIN1
VIN2 4 0 DC VIN2
VB 5 0 DC VB
* NMOS Transistors
M1 2 3 0 0 NMOS
M2 2 4 0 0 NMOS
M5 2 5 0 0 NMOS
* PMOS Transistors
? Missing component
M4 2 2 1 1 PMOS
* Operating Points
.OP
* Models
.model NMOS NMOS
.model PMOS PMOS
.END
