spice
M1 X Vin1 2 4 NMOS
M2 Y Vin2 2 4 NMOS
M3 Vout Vb1 1 5 PMOS
M4 Vout Vin2 3 5 PMOS
M5 Vout VDD 1 5 PMOS
? Missing component
M7 4 Vb 4 0 NMOS
R1 X Y 1k
VDD VDD 0 DC 5V
Vb1 Vb1 0 DC 2.5V
Vin1 Vin1 0 DC 1.5V
Vin2 Vin2 0 DC 1.5V
Vb Vb 0 DC 1V
.END
