plaintext
* NMOS Transistor
M1 X N 2 2 NMOS
* PMOS Transistors
M2 N 4 5 PMOS
? Missing component
* Current Source
IREF 5 4 DC 1mA
* Voltage Source
VX 2 3 DC 5V
* End of Netlist
.END
