spice
* Example SPICE netlist
M1 3 1 4 4 NMOS
M2 2 1 4 4 NMOS
? Missing component
M4 5 3 6 6 PMOS
M5 4 4 0 0 NMOS
VDD 5 0 DC VDD_VALUE
Iss 4 0 DC I_SOURCE_VALUE
* Specify model parameters as needed
.model NMOS nmos
.model PMOS pmos
.end
