spice
* MOSFETs
* M<name> <drain> <gate> <source> <body> <model>
? Missing component
M2 5 P 33 33 NMOS
M3 7 4 VDD VDD PMOS
M4 5 2 VDD VDD PMOS
M5 33 Vb 0 0 NMOS
* Voltage Sources
VDD VDD 0 DC <VDD_value>
Vin Vin 0 DC <Vin_value>
Vb Vb 0 DC <Vb_value>
* Load
RL Vout 0 <RL_value>
* .MODEL statements for NMOS and PMOS
.model NMOS NMOS
.model PMOS PMOS
* End of netlist
