plaintext
* SPICE Netlist
VDD 3 0 DC 5V
ISS 4 0 DC 1mA
M1 2 1 4 4 NMOS
M2 5 1 4 4 NMOS
M3 6 3 5 5 PMOS
? Missing component
R01 6 1 1k
R02 5 2 1k
.END
