spice
* NMOS Technology Parameters (Assuming placeholders)
.model NMOS NMOS(Level=1 VTO=1 KP=2u)
.model PMOS PMOS(Level=1 VTO=-1 KP=2u)
* Transistors
M1 10 10 9 9 NMOS
M2 2 6 8 8 NMOS
? Missing component
M4 7 3 2 2 PMOS
* Voltage Sources
VDD 7 0 DC 5
VX 6 8 DC 1
* Current Source
IX 2 8 DC 1m
* Resistor
RXY 10 2 1k
* Simulation Commands
.op
.end
