plaintext
* SPICE Netlist
* Transistors
M1 4 4 2 2 NMOS
M2 5 4 2 2 NMOS
? Missing component
M4 3 2 3 3 PMOS
* Current Source
I1 2 0 DC ISS
* Voltage Sources
V1 3 0 DC VDD
V2 4 0 DC VCM
* Output
.control
run
.endc
.end
