spice
* Netlist for the given schematic
VDD 7 0 DC VDD
R1_L 6 4 10k
R1_R 7 2 10k
R2 4 2 5k
? Missing component
M2 1 4 4 4 NMOS
* NMOS model (example parameters)
.model NMOS nmos (level=1 Vto=1 kp=2e-5 lambda=0.02)
.END
