* SPICE Netlist
* Voltage Sources
VDD 2 0 DC V_DD
V1 3 0 DC V1
* Current Source
IREF X 2 DC I_REF
* Resistors
R1 Y 3 R1
R2 X Y R2
* Transistors
? Missing component
M2 X 4 0 0 NMOS
.end
