* SPICE Netlist
* Voltage Source
VDD 4 0 DC VDD
* Current Source
IREF 5 4 DC IREF
* PMOS Transistors
M3 4 2 4 4 PMOS
M4 2 7 6 6 PMOS
* NMOS Transistors
? Missing component
M2 3 2 0 0 NMOS
* Connections
Vb 7 0 DC Vb
* End of Netlist
