* List of components:
* IREF: Current source
* I1: Current source
* M0: PMOS transistor
* M1, M4: NMOS transistors
* M2, M3: PMOS transistors
* Netlist
IREF 1 2 DC 1mA
I1 3 0 DC 1mA
M0 2 2 1 1 PMOS
M1 3 2 3 3 NMOS
M4 4 2 3 3 NMOS
M3 5 6 4 4 PMOS
? Missing component
VDD 4 0 DC 5V
* End of netlist
