plaintext
* SPICE netlist for the given schematic
V0 4 0 DC 1
C1 4 2 1uF
? Missing component
M2 3 4 0 0 NMOS
R1 3 5 1k
VDD 5 0 DC 5
* NMOS transistor model
.model NMOS NMOS (LEVEL=1)
