* SPICE Netlist for the Given Schematic
* NMOS Transistor
? Missing component
* Voltage Source
V1 7 0 DC Vin
* Current Source
I1 4 3 DC I1
* Resistor
R1 7 2 Rs
* Capacitors
C1 2 3 CGD
C2 2 0 CGS
C3 3 0 CDB
* Voltage Source for VDD
VDD 4 0 DC VDD
* Model Definition
.model NMOS NMOS LEVEL=1
.end
