* PMOS Transistors
M1 9 6 7 7 PMOS
M2 4 2 7 7 PMOS
* NMOS Transistors
? Missing component
M4 8 5 6 6 NMOS
* Current Sources
I1 6 0 DC I1
I2 7 10 DC I2
I3 7 11 DC I3
I4 4 2 DC I4
* Capacitor
CC 3 5 CC
* Voltage Sources
VDD 7 0 DC VDD
VSS 0 6 DC VSS
* Inputs
Vin 9 0 DC VI
* Outputs
Vout 10 0
