spice
* Netlist for the given schematic
* MOSFETs
? Missing component
M2 6 3 3 3 NMOS
M3 5 6 5 5 PMOS
* Resistors
R1 7 3 R1_value
R2 5 2 R2_value
* Capacitors
C1 4 3 C1_value
C2 6 2 C2_value
* Voltage Sources
VDD 5 0 DC VDD_value
Vb 2 0 DC Vb_value
* Input Voltage
Vin 4 0 DC Vin_value
.end
