spice
* Transistors
M1 2 1 9 9 PMOS
M2 3 3 2 2 PMOS
M3 2 3 9 9 PMOS
M4 3 10 9 9 PMOS
M5 2 9 9 PMOS
M6 3 1 2 PMOS
M7 9 2 9 9 PMOS
M8 2 10 9 9 PMOS
? Missing component
M10 3 5 9 9 NMOS
M11 1 10 9 9 NMOS
M12 2 4 9 9 NMOS
* Current Sources
IB1 1 9 DC [value]
IB2 4 9 DC [value]
ID2 2 3 DC [value]
* Voltage Source
VDD 2 9 DC [value]
* Other components (Resistors)
R13 2 2 3k
R14 2 5 3k
R9 3 9 3k
R10 3 9 3k
.END
