*MOSFET Amplifier Circuit
* NMOS Transistor
? Missing component
* Resistor
RD 3 VDD 3k
* Capacitor
CL 3 0 10p
* Voltage Source
VDD VDD 0 DC 5V
Vin Vin 0 DC 0V AC 1mV
* Model Definitions
.model NMOS NMOS (Level=1)
.end
