spice
* BJT Amplifier Circuit
VCC 1 0 DC 2.5V
R1 1 2 13k
R2 2 0 12k
RC 1 4 1k
? Missing component
Q1 4 2 2 QNPN
Q2 3 2 2 QNPN
.model QNPN NPN (IS=1E-14 BF=100)
.ends
