spice
* SPICE Netlist for the given circuit
VCC 3 0 DC 2.5
VB 6 0 DC <VB_value>  ; Specify the base voltage value
? Missing component
R2 2 0 500
Q1 5 6 2 QNPN
Q2 4 5 2 QNPN
.model QNPN NPN (IS=1e-15 BF=100)
.end
