spice
* SPICE Netlist for the Circuit
VCC 3 2 DC 10V      ; Voltage source simulating Vcc
I1 3 2 DC 1mA       ; Current Source
R1 2 5 1k           ; Resistor R1
? Missing component
RS 4 0 1k           ; Resistor RS
Q1 2 5 4 NPN        ; NPN Transistor Q1
.model NPN NPN (IS=1E-14 BF=100)
.end
