plaintext
* SPICE netlist for the schematic
VCC 4 0 DC <VCC_value>
* NPN Transistor Q1
Q1 4 Vin 3 NPN
* Resistor RE
RE 4 2 <RE_value>
* Resistor RC
? Missing component
* NPN Transistor Q2
Q2 2 2 0 NPN
* Analysis
*.OP
* Model Definitions
.model NPN NPN
* End of netlist
