spice
* Common-emitter amplifier
Vcc 3 0 DC 2.5
* Resistors
? Missing component
R2 3 2 100k
R3 4 0 100
* Capacitor
C1 5 2 <Capacitance value>
* Transistor
Q1 3 5 4 NPN
* Voltage input
Vin 5 0 DC <Input voltage value>
.end
