* Transistors
Q1 4 5 3 NPN
Q2 3 3 2 NPN
* Resistors
R1 4 5 10k
R2 4 3 10k
* Voltage Source
VCC 4 2 DC 15V
* Input
? Missing component
* Ground
.param gnd 0
