* SPICE Netlist
VCC 6 0 DC 2.5V
* Transistor
Q1 3 1 0 NPN
* Resistors
R1 4 6 1k
R2 6 2 13k
R3 2 5 12k
? Missing component
* Capacitor
CB 2 5
* Voltage Input
VIN 3 0 DC 0V
* Output
VOUT 4
.MODEL NPN NPN
.END
