spice
* SPICE Netlist
***********************
* Voltage Sources
***********************
VCC 3 1 DC 3V
Vi 6 8 DC 0V
VB 8 1 DC 0V
***********************
* Resistors
***********************
RB 7 8 1k
? Missing component
***********************
* Transistors
***********************
* NMOS Transistor
M1 7 6 8 8 NMOS_model
* BJT Transistor (assumed NPN)
Q2 5 7 1 npn
***********************
* Models
***********************
.model NMOS_model NMOS (LEVEL=1)
.model npn NPN
.end
