spice
* SPICE Netlist
V1 7 3 DC 5V
* BJTs
Q1 4 2 7 QMODEL
Q2 3 9 3 QMODEL
Q3 3 4 7 QMODEL
* MOSFETs
M1 2 8 5 5 NMOSMODEL L=1u W=1u
M2 6 3 5 5 NMOSMODEL L=1u W=1u
* Resistors
R1 7 4 1k
R2 4 7 10k
R3 3 9 10k
R4 8 3 30k
? Missing component
* Models
.model QMODEL NPN (IS=1E-14 BF=100)
.model NMOSMODEL NMOS (Level=1)
.END
