plaintext
* NMOS and PMOS transistor model declaration
.model NMOS NMOS
.model PMOS PMOS
* Voltage sources
VDD 3 0 DC 5V
VB 2 0 DC 1.8V
Vin 4 0 DC 2.5V
* Transistors
M1 3 4 0 0 PMOS
M2 3 4 0 0 NMOS
* Resistor
? Missing component
* Simulation directives
.control
run
.endc
