* NMOS Amplifier Circuit
VDD 5 0 DC 1.8
? Missing component
M1 2 1 3 3 NMOS L=0.18u W=10u
VIN 1 0 DC 0
* Model Parameters
.model NMOS NMOS(Level=1)
* Simulation Commands
*.op
.end
