spice
* NMOS Transistor
M1 Vout Vin 0 0 NMOS
* Current Source
I1 0 3 DC 1/gm2
* Resistors
Rro1 Vout 2 ro1
Rro2 2 3 ro2
* Voltage Source
V1 3 0 DC Vdd
* Analysis
.control
? Missing component
.endc
