plaintext
*MOSFET Amplifier Circuit
M1 3 2 2 2 NMOS
? Missing component
I1 2 0 DC 1/gm2
*DC voltage source for load resistor
VDD 4 0 DC Vdd
*Input Voltage
Vin 2 0 DC Vin
*.model definition for NMOS 
.model NMOS NMOS(L=1u W=1u)
*.options
.options post
.end
