plaintext
* SPICE Netlist
* Voltage Source
V1 Vin 0 DC
* Resistor 1/gm
R1 Vin N001 1/gm
* Resistor RL || rO
? Missing component
* Output Node
* Vout is connected to node N001
.END
